US05849735
N-[5-[(6,11-Dihydro-5H-pyrido[2,3-b][1,4]benzodiazepin-5-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
As described for Example 1, 6,11-dihydro-5H-pyrido[2,3-b][1,4]benzodiazepine (2 mmol) is reacted with 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride (2.1 mmol) in the presence of triethylamine (4 mmol) in dichloromethane to give the product as a solid, m.p. 102° C.-104° C.

reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,4]benzodiazepine | 2 mmol | N1=CC=CC2=C1NC1=C(CN2)C=CC=C1 | C12H11N3
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | 2.1 mmol | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
reactant | triethylamine | 4 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[5-[(6,11-Dihydro-5H-pyrido[2,3-b][1,4]benzodiazepin-5-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | N1=CC=CC2=C1NC1=C(CN2C(=O)C=2C=CC(=NC2)NC(C2=C(C=CC(=C2)F)C)=O)C=CC=C1 | C26H20FN5O2
